US07157487B2
(Step 5) Synthesis of 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propionaldehyde
In methylene chloride (43 ml) were dissolved 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propanol (2.84 g, 9.30 mmol), triethylamine (7.78 ml, 55.8 mmol) and DMSO (6.61 ml, 93.7 mmol). Under stirring at 0° C., a pyridine-sulfur trioxide complex (4.44 g, 27.9 mmol) was added dropwise to the resulting solution. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 2 hours. Water (50 ml) was added to the residue obtained by distilling off the solvent under reduced pressure, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 50 g), whereby hexane/ethyl acetate (4/1) eluate fractions, the title compound (1.35 g, 53%) was obtained as a colorless oil.

reactant | 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propanol | 9.30 mmol, 2.84 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCCO | C13H24FNO4
reactant | triethylamine | 55.8 mmol, 7.78 ml | C(C)N(CC)CC | C6H15N
reactant | DMSO | 93.7 mmol, 6.61 ml | CS(=O)C | C2H6OS
reactant | Water | 50 ml | O | H2O
solvent | methylene chloride | 43 ml | C(Cl)Cl | CH2Cl2
product | 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propionaldehyde | 1.35 g, 53% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCC=O | C13H22FNO4
